US05767132
A solution of 2.8 g 2-aminomethyl-chromane [obtainable by reacting 3-(2-hydroxy-phenyl)-propanal with KCN and subsequent catalytic reduction of the 2-cyano-chromane] and 2.2 g 3-chloromethyl)-pyridine in 250 ml of DMF are stirred together with 1 g N-methyl-morpholine for 12 hours at 20° and worked up in a conventional manner to give N-(3-pyridylmethyl)-N-(2-chromanyl-methyl)-amine. Stirring with 0.5 equivalents of maleic acid in 100 ml ethanol gives the maleate, m.p 163°-164°.

reactant | 2-aminomethyl-chromane | 2.8 g | NCC1OC2=CC=CC=C2CC1 | C10H13NO
reactant | 3-(2-hydroxy-phenyl)-propanal | OC1=C(C=CC=C1)CCC=O | C9H10O2
reactant | KCN | [C-]#N.[K+]
reactant | 2-cyano-chromane | C(#N)C1OC2=CC=CC=C2CC1 | C10H9NO
reactant | N-methyl-morpholine | 1 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(3-pyridylmethyl)-N-(2-chromanyl-methyl)-amine | N1=CC(=CC=C1)CNCC1OC2=CC=CC=C2CC1 | C16H18N2O
